US08609647B2
(4) Optically-Active Compound of 1-benzyl-3-methylazetidine-2-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of [benzyl-(2-chloropropyl)-amino]acetic acid tert-butyl ester (60.0 g) and hexamethyl phosphoramide (36.0 ml) in tetrahydrofuran (360 ml) cooled to −72° C. was added dropwise lithium hexamethyl disilazide (1.0M tetrahydrofuran solution, 242 ml) over 18 minutes, and the mixture was warmed to 0° C. over 80 minutes. To the reaction mixture were sequentially added saturated aqueous ammonium chloride solution (300 ml) and water (400 ml), and the mixture was extracted with ethyl acetate (500 ml). The organic layer was sequentially washed with water (700 ml) and saturated aqueous sodium chloride solution (500 ml), and the separated aqueous layer was extracted with ethyl acetate (300 ml) again. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=50/1 to 4/1) to give the titled compound (50.9 g).

reactant | [benzyl-(2-chloropropyl)-amino]acetic acid tert-butyl ester | 60.0 g | C(C)(C)(C)OC(CN(CC(C)Cl)CC1=CC=CC=C1)=O | C16H24ClNO2
reactant | hexamethyl phosphoramide | 36.0 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | lithium hexamethyl disilazide | 1.0M, 242 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 360 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | 1-benzyl-3-methylazetidine-2-carboxylic acid tert-butyl ester | 50.9 g | C(C)(C)(C)OC(=O)C1N(CC1C)CC1=CC=CC=C1 | C16H23NO2
